US06333358B1
To a solution of 666 mg of N-acetyl-N-(2-hydroxybenzyl)-2-phenoxyaniline in 10 ml of N,N-dimethylformamide was added 80 mg of 60% NaH/oil, followed by stirring at room temperature for 30 minutes. To this was added 0.3 ml of methyl bromoacetate, followed by stirring at room temperature for 30 minutes. The reaction solution was poured into 0.5 N hydrochloric acid and extracted with ethyl acetate. The extract was washed with 0.5 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to give a crude N-acetyl-N-(2-methoxycarbonylmethoxybenzyl)-2-phenoxyaniline.

reactant | N-acetyl-N-(2-hydroxybenzyl)-2-phenoxyaniline | 666 mg | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)O | C21H19NO3
reactant | NaH | 80 mg | [H-].[Na+]
reactant | methyl bromoacetate | 0.3 ml | BrCC(=O)OC | C3H5BrO2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-acetyl-N-(2-methoxycarbonylmethoxybenzyl)-2-phenoxyaniline | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OCC(=O)OC | C24H23NO5
